US08476294B2
Stage 220.1.3 (5-Bromo-pyridin-3-yl)-acetonitrile
To SOCl2 (26.7 ml) cooled with an ice-bath was added portionwise (5-bromo-pyridin-3-yl)-methanol (ABCR, Karlsruhe, Germany, 26.6 mmol). The RM was refluxed for 1 h then was cooled at 0° C. and quenched with diethyl ether. The resulting precipitate was filtered, washed with cooled diethyl ether and dried under vacuum at 50° C. The solid was mixed with potassium cyanide (64.5 mmol), MeOH (35 ml) and water (14 ml) and the RM was refluxed for 2 h. The RM was cooled, quenched with aqueous K2CO3 and extracted with diethyl ether (3×). The combined organic layers dried over Na2SO4, filtered and evaporated to give the title compound as a purple solid. (HPLC: tR 2.16 min (Method A); M+H=197, 199 MS-ES)

reactant | SOCl2 | 26.7 ml | O=S(Cl)Cl | Cl2OS
reactant | (5-bromo-pyridin-3-yl)-methanol | 26.6 mmol | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | potassium cyanide | 64.5 mmol | [C-]#N.[K+]
reactant | MeOH | 35 ml | CO | CH4O
solvent | water | 14 ml | O | H2O
product | (5-Bromo-pyridin-3-yl)-acetonitrile | BrC=1C=C(C=NC1)CC#N | C7H5BrN2
